US05112818
A stirred solution of ethyl trans-2-[(2S, 4R)-4-methanesulfonyloxy-N-(4-nitrobenzyloxycarbonyl) pyrrolidin-2-yl]cyclopropanecarboxylate (750 mg, 1.64 mmol) and MeOH (15 ml) was treated with 2N LiOH (2.4 ml, 4.8 mmol) at room temperature over 12 hours. The reaction mixture was neutralized with 6N HCl (0.80 ml, 4.8 mmol) and extracted with CH2Cl2 (20 ml×2). The organic layers were combined, dried (MgSO4) and concentrated to afford trans-2-[(2S, 4R)-4-methanesulfonyloxy-N-(4-nitrobenzyloxycarbonyl)pyrrolidin-2yl]cyclopropanecarboxylic acid (565 mg, 80% yield) as a residue.

reactant | ethyl trans-2-[(2S, 4R)-4-methanesulfonyloxy-N-(4-nitrobenzyloxycarbonyl) pyrrolidin-2-yl]cyclopropanecarboxylate | 1.64 mmol, 750 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@@H](C1)C(=O)OCC | C19H24N2O9S
reactant | LiOH | 4.8 mmol, 2N, 2.4 ml | [Li+].[OH-]
reactant | HCl | 4.8 mmol, 6N, 0.80 ml | Cl | ClH
solvent | MeOH | 15 ml | CO | CH4O
product | trans-2-[(2S, 4R)-4-methanesulfonyloxy-N-(4-nitrobenzyloxycarbonyl)pyrrolidin-2yl]cyclopropanecarboxylic acid | 565 mg, 80% yield | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@@H](C1)C(=O)O | C17H20N2O9S
